US03966773
Preparation of 15-hydroxy-9-oxoprostanoic acid, ethyl ester
A solution of 25 g. of 15-(tert-butoxy)-9-oxoprostanoic acid, ethyl ester in 100 ml. of trifluoroacetic acid is stirred in an ice bath for 1 hour and is then poured into 500 ml. of ice water and extracted several times with chloroform. The combined chloroform extracts are washed with saturated sodium bicarbonate solution, saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and taken to dryness. The resulting oil is dissolved in 200 ml. of 1N ammonium hydroxide in ethanol, kept at ambient temperature for 15 minutes, then taken to dryness. The residual oil is dissolved in chloroform and washed with 1N hydrochloric acid, saturated sodium chloride solution, dried and taken to dryness to give 21.7 g. (100%) of product as a yellow syrup. There is essentially no uv absorption; λmaxKBr 2.90, 5.75, 8.45 μ; nmr 2H quartet δ 4.13 (OCH2 of ester), 1H broad singlet 3.63 (carbinolic proton), 3H triplet (CH3 of ester), and 3H distorted triplet 0.92 (terminal methyl); mass spectrum: m/e 3.68.

reactant | 15-(tert-butoxy)-9-oxoprostanoic acid, ethyl ester | C(C)(C)(C)OC(CC[C@H]1CCC([C@@H]1CCCCCCC(=O)OCC)=O)CCCCC | C26H48O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 15-hydroxy-9-oxoprostanoic acid, ethyl ester | OC(CC[C@H]1CCC([C@@H]1CCCCCCC(=O)OCC)=O)CCCCC | C22H40O4
